US07276603B2
Preparation of 8-{4-[2-(5-methoxy-1-benzofuran-3-yl)-1-methylethyl)piperazin-1-yl]quinoline (“Compound 38”)
To a stirred mixture of 1-(5-methoxy-1-benzofuran-3-yl)acetone (204 mg, 1 mmol) and 8-piperazino quinoline (213.0 mg, 1 mmol) in 1,2-dichloroethane (100 ml) and acetic acid (1 ml), sodium triacetoxyborohydride (422 mg, 2 mmol) was added at room temperature. Reaction mixture was stirred at room temperature for 72 hrs. At the end, reaction mixture was neutralized with 10% NaHCO3 and extracted with chloroform. The organic layer was dried over anhydrous MgSO4, filtered and concentrated. The product obtained was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown semi-solid. Yield: 60 mg (14%); (M+H): 402; 1HNMR (400 MHz, CDCl3): δ 8.90˜8.88 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H); 8.13˜8.10 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H); 7.60˜6.70 (m, 8H); 3.87 (s, 3H); 3.50˜2.50 (m, 11H); 1.15˜1.13 (d, J=6.0 Hz, 3H).

reactant | 1-(5-methoxy-1-benzofuran-3-yl)acetone | 1 mmol, 204 mg | COC=1C=CC2=C(C(=CO2)CC(=O)C)C1 | C12H12O3
reactant | 8-piperazino quinoline | 1 mmol, 213.0 mg | N1(CCNCC1)C=1C=CC=C2C=CC=NC12 | C13H15N3
reactant | sodium triacetoxyborohydride | 2 mmol, 422 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 8-{4-[2-(5-methoxy-1-benzofuran-3-yl)-1-methylethyl)piperazin-1-yl]quinoline | COC=1C=CC2=C(C(=CO2)CC(C)N2CCN(CC2)C=2C=CC=C3C=CC=NC23)C1 | C25H27N3O2
